US09382236B2
1-(2-Dimethylaminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide
1-(2-Aminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide (18 mg, 0.036 mmol) mentioned above, zinc chloride (12 mg, 0.090 mmol), formalin (2.7 mg, 0.090 mmol), and sodium cyanoborohydride (5.7 mg, 0.090 mmol) were dissolved in methanol, and the solution was refluxed by heating for 5 hours under a nitrogen atmosphere. After the disappearance of the starting materials was confirmed, the reaction mixture was treated in a conventional manner to give the title compound (8 mg, yield 42%) as white crystals.

reactant | 1-(2-Aminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide | 0.036 mmol, 18 mg | NC1=C(C=CC=C1)C1(CC=CC=C1)CS(=O)(=O)N(C)C1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C33H30N4O4S
reactant | formalin | 0.090 mmol, 2.7 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 0.090 mmol, 5.7 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
catalyst | zinc chloride | 0.090 mmol, 12 mg | [Cl-].[Zn+2].[Cl-]
product | 1-(2-Dimethylaminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide | 8 mg, yield 42% | CN(C1=C(C=CC=C1)C1(CC=CC=C1)CS(=O)(=O)N(C)C1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2)C | C35H34N4O4S
